US07968572B2
Methyl 1-(2,6-dimethylphenyl)-6-oxo-1,6-dihydro-3-pyridinecarboxylate
To a suspended solution of sodium hydride (60% in oil, 14.5 g) in tetrahydrofuran (240 mL) were added 2,6-dimethylaniline (29.3 g) and methyl coumalate (18.6 g) and the mixture was stirred at 60° C. for 4 hours. To the reaction mixture was added an aqueous solution of ammonium chloride and the mixture was extracted with ethyl acetate. The obtained organic layer was dried and concentrated. The obtained residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:2) to give the title compound (10.4 g) having the following physical data.

reactant | sodium hydride | 14.5 g | [H-].[Na+]
reactant | 2,6-dimethylaniline | 29.3 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | methyl coumalate | 18.6 g | COC(=O)C1=COC(=O)C=C1 | C7H6O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
product | Methyl 1-(2,6-dimethylphenyl)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 10.4 g | CC1=C(C(=CC=C1)C)N1C=C(C=CC1=O)C(=O)OC | C15H15NO3
